US07858621B2
Step 3: 2-(6-Chloro-pyridin-3-yloxy)-N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-acetamide
N-(4-Aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide (74.3 mg, 0.266 mmol) was suspended in THF and treated with triethylamine (27 mg, 0.266 mmol) and then the resulting mixture was stirred for 10 mins. (6-chloro-pyridin-3-yloxy)-acetic acid (50 mg, 0.266 mmol) was added to the reaction mixture followed by DMTMM (62.5 mg, 0.266 mmol) after 10 mins. The resulting mixture was stirred overnight at ambient temperature and then diluted with EtOAc. The resulting solution was washed successively with water, sat'd NaHCO3 (×3), and brine, and then dried over anh. MgSO4, filtered and concentrated under reduced pressure. The crude residue was recrystallized (CH2Cl2) to yield the title compound (25 mg, 25%).

reactant | N-(4-Aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide | 0.266 mmol, 74.3 mg | NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)C#C | C10H11FN2O2S
reactant | triethylamine | 0.266 mmol, 27 mg | C(C)N(CC)CC | C6H15N
reactant | (6-chloro-pyridin-3-yloxy)-acetic acid | 0.266 mmol, 50 mg | ClC1=CC=C(C=N1)OCC(=O)O | C7H6ClNO3
reactant | DMTMM | 0.266 mmol, 62.5 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(6-Chloro-pyridin-3-yloxy)-N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-acetamide | 25 mg, 25% | ClC1=CC=C(C=N1)OCC(=O)NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)C#C | C17H15ClFN3O4S
